US07902181B2
a) 5-Bromo-3-(2-hydroxyethyl)benzo[d]thiazol-2(3H)-one
5-Bromobenzo[d]thiazol-2(3H)-one (1 g) and potassium carbonate (1.5 g) were stirred in DMF (7 mL) at room temperature and 2-bromoethanol (0.4 mL) added. The mixture was stirred for 48 h. The mixture was poured onto water and acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extracts were washed with dilute hydrochloric acid, water and brine then dried over sodium sulfate and evaporated. Purification by flash silica chromatography eluting with 25% ethyl acetate in isohexane afforded the subtitle compound as a colourless solid (0.540 g).

reactant | 5-Bromobenzo[d]thiazol-2(3H)-one | 1 g | BrC=1C=CC2=C(NC(S2)=O)C1 | C7H4BrNOS
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 0.4 mL | BrCCO | C2H5BrO
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-3-(2-hydroxyethyl)benzo[d]thiazol-2(3H)-one | 0.540 g | BrC=1C=CC2=C(N(C(S2)=O)CCO)C1 | C9H8BrNO2S
